US05665718
400 ml of methylamine (33% in ethanol) were added dropwise to a solution of 38 g (111 mmol) of 2-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-ylmethyl)-2,3-dihydro-1H-isoindol-1,3-dione in 300 ml of ethanol. The mixture was stirred at 70° for 1.5 hours and subsequently evaporated. The residue was triturated in methylene chloride and filtered off. The filtrate was concentrated and chromatographed (silica gel, methylene chloride/methanol 19:1). There were obtained 15.6 g (66%) of (3-aminomethyl-1,2,4-oxadiazol-5-ylmethyl)-dipropyl-amine as a yellow oil, Rf=0.25 (silica gel, methylene chloride/methanol 9:1).

reactant | methylamine | 400 ml | CN | CH5N
reactant | 2-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-ylmethyl)-2,3-dihydro-1H-isoindol-1,3-dione | 111 mmol, 38 g | C(CC)N(CCC)CC1=NC(=NO1)CN1C(C2=CC=CC=C2C1=O)=O | C18H22N4O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | (3-aminomethyl-1,2,4-oxadiazol-5-ylmethyl)-dipropyl-amine | 15.6 g, 66% | NCC1=NOC(=N1)CN(CCC)CCC | C10H20N4O
